US05070087
4-(3-Chloropropoxy)-α-hydroxy-3-methoxybenzeneacetic acid (phenylmethyl) ester
A mixture of 2.92 g (0.008 mole) of 4-hydroxy-3-methoxymandelic acid (phenylmethyl) ester, 2 ml (0.02 mole) of 1-bromo-3-chloropropane, and 2.80 g (0.02 mole) of potassium carbonate in 40 ml of acetone was heated at reflux for 16 hours under nitrogen atmosphere during which time the solution changed from colorless to light-yellow. TLC (silica gel, hexanes/acetone 4:1) showed that the mandelate derivative had reacted, but 30-40% of unknown impurities had formed. The inorganic materials were separated by filtration, washed with acetone, and the filtrate was concentrated in vacuo at 60° C. to give 3.65 g of crude product. The material was purified by column chromatography (diameter 25 mm, using 80 g of silica gel) eluted with cyclohexane/ethyl acetate (6:1). The fractions containing the product were collected and the solid recrystallized from ethyl ether/hexanes to give 0.637 g (22%) of material as a white powder.

reactant | 4-hydroxy-3-methoxymandelic acid (phenylmethyl) ester | 0.008 mole, 2.92 g | C1(=CC=CC=C1)COC(C(O)C1=CC(=C(C=C1)O)OC)=O | C16H16O5
reactant | 1-bromo-3-chloropropane | 0.02 mole, 2 ml | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.02 mole, 2.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | mandelate | C(C(O)C1=CC=CC=C1)(=O)[O-]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 4-(3-Chloropropoxy)-α-hydroxy-3-methoxybenzeneacetic acid (phenylmethyl) ester | 0.637 g, 22% | C1(=CC=CC=C1)COC(C(C1=CC(=C(C=C1)OCCCCl)OC)O)=O | C19H21ClO5
